US05380920
2940 g (30 mol) of cyclohexanone were heated to reflux while stirring and, at this temperature, a solution of 87.6 g (0.6 mol) of di-tert-butyl peroxide in 216 g (3 mol) of ethyl vinyl ether was added over the course of 5 hours (h). The mixture was subsequently refluxed for a further 1 h. After the mixture had cooled, the low boilers (tert-butanol, remaining vinyl ether and peroxide) and the excess cyclohexanone were removed by distillation under reduced pressure (25-40 mbar; diaphragm pump). The residue (about 500 g) was distilled under reduced pressure (0.5 to 2 mbar; oil pump). A total of 350 g of a 95% pure 2-(2-ethoxyethyl)cyclohexanone of boiling point 60°-65° C. (0.5 mbar) was obtained, corresponding to a yield of 69% of theory.

reactant | cyclohexanone | 30 mol, 2940 g | C1(CCCCC1)=O | C6H10O
reactant | di-tert-butyl peroxide | 0.6 mol, 87.6 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | ethyl vinyl ether | 3 mol, 216 g | C(=C)OCC | C4H8O
product | 2-(2-ethoxyethyl)cyclohexanone | 95% | C(C)OCCC1C(CCCC1)=O | C10H18O2
